US08431695B2
Step 1: Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-(2-bromo-ethyl)-pyrrolo[2,1-f][1,2,4]-triazin-4-ylamine
To a solution of 2-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-ethanol (210 mg, 0.55 mmol) in anhydrous THF (5.5 mL) at 0° C. was added carbon tetrabromide (235.5 mg, 0.71 mmol, 1.3 eq) and triphenylphosphine (157.6 mg, 0.60 mmol, 1.1 eq), and the reaction mixture was stirred at rt for 16 h. The reaction was poured into EtOAc. The organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by MPLC (Biotage®) eluted with 15% acetone/DCM to give 222.6 mg (91%) of desired product as a white solid. 1H-NMR (300 MHz, DMSO-d6) 8.55 (s, 1H), 7.93 (s, 1H), 7.81 (d, 1H), 7.58 (s, 1H), 7.36 to 7.15 (m, 5H), 7.13 (d, 1H), 6.73 (s, 1H), 5.65 (s, 2H), 3.82 (t, 2H), 3.46 (t, 2H); ES-MS m/z 447.3/449.2 [M+H]+, RT (min) 2.91.

reactant | 2-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-ethanol | 0.55 mmol, 210 mg | NC1=NC=NN2C1=C(C=C2CCO)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C22H20N6O
reactant | carbon tetrabromide | 0.71 mmol, 235.5 mg, 1.3 eq | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.60 mmol, 157.6 mg, 1.1 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5.5 mL | C1CCOC1 | C4H8O
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-(2-bromo-ethyl)-pyrrolo[2,1-f][1,2,4]-triazin-4-ylamine | 222.6 mg, 91% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)CCBr | C22H19BrN6
